* C:\Users\mkebbi\Documents\EAGLE\projects\Reverse_Protection(COMPLETE)\Reverse Protection - MOSFET.asc
M1 In G Out Out Si7143DP
R1 G 0 10k
V1 In 0 PULSE(+24v -24V 1ms 1ms 1ms .5ms)
RL Out 0 1.5
D1 G Out UMZ30K
.model D D
.lib C:\Users\mkebbi\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mkebbi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4ms
.backanno
.end
